US06011044
Preparation of 1-(2-methylphenyl)-4-methylamino-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methylphenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(300 mg, 0.79 mmol) was dissolved in ethanol(1.0 ml) and aqueous solution of methylamine(40%, 5 ml) was added. The reaction mixture was refluxed in the pressure tube at 170° C. for 20 hours, and the solvent was removed by distillation under low pressure. The residue was diluted in dichloromethane(20 ml), washed with water(15 ml) for 3 times, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography to obtain 240 mg of desired compound as solid in 81% of yield.

reactant | 1-(2-Methylphenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 0.79 mmol, 300 mg | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)Cl | C19H14ClF3N2O
reactant | methylamine | 5 ml | CN | CH5N
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
product | 1-(2-methylphenyl)-4-methylamino-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 240 mg | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)NC | C20H18F3N3O
